*******************************************************************************
*****************************************************************
* NXP PSMN4R5_40PS
*
* Polarity N-Channel
* Ratings 40V/4.60E-03OHMS/25A
*
* Date Created Fri Mar  5 11:04:06 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN4R5_40PS DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.026544
RLD1 5 4 0.00027
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 2.31887015786126e-09
RLS2 SOURCE 8 5.82795143938828
RLS1 8 7 0.000787717746675436

RDS 7 4 13333333.3333333 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00275438685114005 TC=0.0111551210067159,-1.85110528963939e-05
RBD 9 4 4.27484684309049e-05 TC=0.0111551210067159,-1.85110528963939e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 2.335e-09
RG 1 2 0.967840585732129

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	2237
+ -8	2232
+ -6	2236
+ -4	2041
+ -2	1538
+ 0	877
+ 0.1	824
+ 0.2	772
+ 0.5	670
+ 1	573
+ 2	472
+ 5	372
+ 10	310
+ 20	266
+ 25	253



.MODEL MINT NMOS(Vto=4.0345845651871 Kp=2.4369e+02 Nfs=1030000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0 Ucrit=1e4 Diomod=1 Vfb=0 Leta=0 Weta=0
+ U0=600 Temp=0 Vdd=0 Xpart=0 Vmax=150)

.MODEL DBD D(Bv=44.80 Ibv=2.50E-04 Rs=1E-6 Is=1.30378844461735e-11
+ N=1 M=0.58 VJ=0.57 Fc=0.5 Cjo=2.275e-09 Tt=4e-08)

.ENDS


*******************************************************************************
